US07220759B2
(3R,5R)-5-Hydroxymethylpyrrolidin-3-ol and 4-bromobutyronitrile are reacted in the presence of potassium carbonate in N,N-dimethylformamide to give 4-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]butyronitrile. In the same manner as in Example 1b (e) and using 4-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]butyronitrile and N,N-diethyl-2,3-dimethylbenzamide, 3-{3-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propyl}-5-methyl-2H-isoquinolin-1-one is obtained.

reactant | 4-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]butyronitrile | O[C@@H]1C[C@@H](N(C1)CCCC#N)CO | C9H16N2O2
reactant | N,N-diethyl-2,3-dimethylbenzamide | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
product | 3-{3-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propyl}-5-methyl-2H-isoquinolin-1-one | O[C@@H]1C[C@@H](N(C1)CCCC=1NC(C2=CC=CC(=C2C1)C)=O)CO | C18H24N2O3
